US07678794B2
Synthesis of 1-[4-(4-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone
To 1-[2-hydroxy-4-(4-nitro-benzyloxy)-3-propyl-phenyl]-ethanone (1.0 g, 3.0 mmol) in tetrahydrofuran (13 mL) is added concentrated hydrochloric acid (2.7 mL) and stannous chloride dihydrate (2.2 g, 9.9 mmol). The reaction mixture is stirred at room temperature overnight. The reaction mixture is quenched into saturated aqueous NH4Cl (100 mL). The resulting emulsion is filtered and the filtrate extracted with ethyl acetate (3×100 mL). The combined organic layers are washed with brine, dried over sodium sulfatesodium sulfate, and concentrated to provide the title compound in crude form (980 mg,). LC-MS (m/z): 298 (M−1).

reactant | 1-[2-hydroxy-4-(4-nitro-benzyloxy)-3-propyl-phenyl]-ethanone | 3.0 mmol, 1.0 g | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C)=O | C18H19NO5
reactant | hydrochloric acid | 2.7 mL | Cl | ClH
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
product | 1-[4-(4-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | NC1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1 | C18H21NO3
